US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride (150 mg, 0.5 mmol), 3-morpholin-4-yl-propane-1,2-diol, and pyridine in 3.0 mL of THF was stirred at room temperature for 15 min and filtered. The solid was then washed with ethyl acetate and ether to give 116 mg (55%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-morpholin-4-yl-propyl ester as an orange solid. 1HNMR (400 MHz, DMSO-d6) δ 12.06 (s, br, 1H, NH-1′), 10.47 (s, br, 1H, OH), 7.86-7.88 (m, 1H, H-4), 7.79-7.81 (m, 1H, H-7), 7.66 (s, 1H, H-vinyl), 7.19-7.23 (m, 2H, H-5, 6), 6.12 (d, J=2.34 Hz, 1H, H-4′), 4.35-4.45 (m, 3H), 3.75-3.98 (m, 4H), 3.26-3.51 (m, 7H), 2.37 (s, 3H, CH3), and 2.34 (s, 3H, CH3)

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride | 0.5 mmol, 150 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)Cl)=O | C16H13ClN2O2
reactant | 3-morpholin-4-yl-propane-1,2-diol | N1(CCOCC1)CC(CO)O | C7H15NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 2-hydroxy-3-morpholin-4-yl-propyl ester | 116 mg, 55% | OC(COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O)CN1CCOCC1 | C23H27N3O5
